US07858623B2
To a stirred solution of methyl 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate (2.34 g, 6.59 mmol) in dioxane (39 mL) was added water (12 mL) followed by sodium hydroxide 6M solution (4.39 ml, 26.4 mmol). The reaction mixture was heated at 50° C. for 4 h. LCMS analysis of an aliquot showed the reaction was complete. The reaction mixture was cooled to room temperature and concentrated in vacuo. Water was added, and the pH was adjusted to ˜3 with 6M aqueous hydrochloric acid solution. The solid formed was isolated by filtration and was dried under high vacuum overnight to give 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (1.79 g, 5.25 mmol, 80% yield), which was used without further purification. MS (ESI pos. ion) m/z: 364 (M+Na). Calc'd exact mass for C12H81NO3: 341.

reactant | methyl 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate | 6.59 mmol, 2.34 g | IC1=C(C(N(C=C1)C1=CC=CC=C1)=O)C(=O)OC | C13H10INO3
reactant | water | 12 mL | O | H2O
reactant | sodium hydroxide | 6M | [OH-].[Na+]
solvent | dioxane | 39 mL | O1CCOCC1 | C4H8O2
product | 4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 5.25 mmol, 1.79 g, 80% yield | IC1=C(C(N(C=C1)C1=CC=CC=C1)=O)C(=O)O | C12H8INO3
